US05891882
Methyl 2-amino-5-methoxy-thieno[2,3-b]pyridine-2-carboxylate
To 2-chloro-3-cyano-5-methoxypyridine (0.53 g) and methyl thioglycolate (280 μL) in DMF (10 mL) at 5° C. was added a 1.0M solution of KOtBu/THF (3.8 mL). The reaction was stirred 20 min at 5°, then 2 h at RT, quenched in sat'd NH4Cl, the solid precipitate was collected, washed with water and dried to give 0.53 g (71%) of the title compound.

reactant | 2-chloro-3-cyano-5-methoxypyridine | 0.53 g | ClC1=NC=C(C=C1C#N)OC | C7H5ClN2O
reactant | methyl thioglycolate | 280 μL | C(CS)(=O)OC | C3H6O2S
reactant | KOtBu THF | 3.8 mL | CC(C)(C)[O-].[K+].C1CCOC1
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
product | Methyl 2-amino-5-methoxy-thieno[2,3-b]pyridine-2-carboxylate | 0.53 g, 71% | NC1(CC=2C(=NC=C(C2)OC)S1)C(=O)OC | C10H12N2O3S
